US06545013B2
To a rapidly stirred suspension of 4-methylnicotinic acid HCl (952 mg, 5.48 mmol) in THF (25 ml) at −78° was added n-butyl lithium (17.0 mmol) over 20 min, maintaining the temperature below −50°. The reaction was maintained at −78° for 1.5 h, the temperature raised to −30° and after 40 min CO2 gas bubbled through the solution for 10 min maintaining the temperature between −30 to −20°. The reaction was then allowed to warm to ambient temperature, poured into water (30 ml) and to this was added 1M HCl (30 ml). The solution was washed with DCM (2×20 ml) and the aqueous layer concentrated in vacuo at a temperature below 50° to give crude 4-(carboxymethyl)nicotinic acid as a brown oil. m/z (ES+, 70V) 182 (MH+). The brown oil was dissolved in trifluoroacetic anhydride (15 ml) and after 10 min heated at 100° in a sealed tube for 4 days. The solvent was removed under vacuum and the resulting crude 3-(trifluoromethyl)-1H-pyrano[3,4-C]pyridin-1-one, m/z (ES+, 70V) 216 (MH+) dissolved in concentrated NH4OH (10 ml) and heated at 100° for 1 h, additional concentrated NH4OH (10 ml) added after 20 and 40 minutes. The reaction was allowed to cool to ambient temperature, and the pale brown aqueous solution separated. The organic layer was separated and concentrated in vacuo to yield a brown/orange oily solid purified by column chromatography (SiO2:EtOAc) to give the title compound (957 mg, 82%) as a pale yellow solid. δH (DMSO-d6) 9.24 (1H, s), 8.71 (1H, d, J 5.4 Hz), 7.65 (1H, d J 5.4 Hz), 7.11 91H, s), 3.19 (1H, br s). m/z (ES+, 70V), 215 (MH+).

reactant | 4-methylnicotinic acid HCl | 5.48 mmol, 952 mg | Cl.CC1=CC=NC=C1C(=O)O
reactant | n-butyl lithium | 17.0 mmol | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-(carboxymethyl)nicotinic acid | C(=O)(O)CC1=CC=NC=C1C(=O)O | C8H7NO4
